US04824830
A solution of 4,5-epoxy-16α-fluoro-1β,6β-dimethyl-7-methylenandrostane-3,17-dione (361 mg) and benzeneseleninic anhydride (360 mg) in chlorobenzene (30 ml) is heated for 4 hrs at 90°-100° C. Then the solvent is removed in vacuo and the residue chromatographed on silica gel to give 4,5-epoxy-16α-fluoro-1,6β-dimethyl-7-methylenandrost-1-ene-3,17-dione (287 mg).

reactant | 4,5-epoxy-16α-fluoro-1β,6β-dimethyl-7-methylenandrostane-3,17-dione | 361 mg | O1C2C13[C@@H](C([C@H]1[C@@H]4C[C@H](C([C@@]4(C)CC[C@@H]1[C@]3([C@@H](CC2=O)C)C)=O)F)=C)C | C22H29FO3
reactant | benzeneseleninic anhydride | 360 mg | C1(=CC=CC=C1)[Se](=O)O[Se](=O)C1=CC=CC=C1 | C12H10O3Se2
solvent | chlorobenzene | 30 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 4,5-epoxy-16α-fluoro-1,6β-dimethyl-7-methylenandrost-1-ene-3,17-dione | 287 mg | O1C2C13[C@@H](C([C@H]1[C@@H]4C[C@H](C([C@@]4(C)CC[C@@H]1[C@]3(C(=CC2=O)C)C)=O)F)=C)C | C22H27FO3
